* C:\users\crguarin\Documents\2026-1\Circuitos Eléctricos 1\Laboratorio\Práctica 1\Informe\Esquemáticos\Circuito 3.asc
* Generated by LTspice 26.0.1 for Windows.
Vs N1 0 8V
Ra N1 N2 1500
Rb N1 N3 2200
Rc N3 N2 3300
R4 N2 0 1000
Re N3 0 2000
.op
.backanno
.end
